* C:\users\krot\Desktop\study\itmo-prog\sem6\cdesign\lab1\nand-tests.asc
XX1 N001 N003 N002 VDD nand
V1 N003 0 PULSE(0 1 1n 10p 10p 4n 8n)
V2 N001 0 PULSE(0 1 1n 10p 10p 2n 4n)
C1 N002 0 100f
R1 N002 0 100k
V3 VDD 0 1

* block symbol definitions
.subckt nand A B C VDD
M1 VDD A C C PMOS
M2 VDD B C C PMOS
R1 C 0 100k
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\krot\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 8n 0 1p
.backanno
.end
